US07176242B2
Step 4. N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-2-(dipropylamino)-6-methylisonicotinamide
To 2-(dipropylamino)-6-methylisonicotinic acid hydrochloride (approx. 0.4 mmol) in THF (3 mL) was added triethylamine (0.17 mL), followed by dichloromethane (2 mL) and then CDI (0.071 g, 0.44 mmol). After stirring for 1 h, a mixture of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride (0.163 g, 0.400 mmol), triethylamine (0.11 mL), and dichloromethane (approx. 2 mL) was added to the CDI mixture. The mixture was allowed to stir overnight, after which an additional 0.12 mL of triethylamine and 0.045 g of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride was added. After stirring for several more hours, the mixture was partitioned between dichloromethane and aq. sodium bicarbonate. The organic layer was dried with sodium sulfate, concentrated, and the residue was chromatographed on silica gel using MeOH-dichloromethane (5/95) to give 0.04 g of the title compound.

reactant | 2-(dipropylamino)-6-methylisonicotinic acid hydrochloride | approx. 0.4 mmol | Cl.C(CC)N(C=1C=C(C(=O)O)C=C(N1)C)CCC
reactant | CDI | 0.44 mmol, 0.071 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride | 0.400 mmol, 0.163 g | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride | 0.045 g | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | triethylamine | 0.12 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | approx. 2 mL | ClCCl | CH2Cl2
solvent | triethylamine | 0.11 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | triethylamine | 0.17 mL | C(C)N(CC)CC | C6H15N
product | N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-2-(dipropylamino)-6-methylisonicotinamide | 0.04 g | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(C2=CC(=NC(=C2)C)N(CCC)CCC)=O)C=C(C1)F | C32H42F2N4O2
